US05384078
In a typical reaction 1,2-dimethylenecyclohexane (0.239 g, 2.21 mmol) is added via a disposable syringe to the highly reactive calcium (3.53 mmol) in THF (20 mL). After being stirred at room temperature for several hours, the reaction mixture is allowed to stand until the solution becomes transparent. The THF solution of newly formed calcium complex of 1,2-dimethylenecyclohexane is cooled to -78° C. using a dry ice/acetone bath, and acetone (0.122 g, 2.10 mmol) is added via a disposable syringe. The mixture is stirred at -78° C., then gradually warmed to 0° C. Carbon dioxide is then bubbled through the reaction mixture at 0° C., and then at room temperature. An aqueous solution of 1.5N HCl (10 mL) is added at 0° C. The reaction mixture is heated slightly to 40° C. After cooling to room temperature, the mixture is extracted with diethyl ether (3×20 mL). The combined organic phases are washed with saturated aqueous NaHCO3 (2×20 mL) and brine (20 mL) and dried over anhydrous MgSO4. Removal of solvents and flash column chromatography gives 4,4-dimethyl-6-methylene-3-oxaspiro[4.5]decan-2-one. See Table VI for representative examples of compounds that can be made by this method.

reactant | 1,2-dimethylenecyclohexane | 2.21 mmol, 0.239 g | C=C1C(CCCC1)=C | C8H12
reactant | calcium | 3.53 mmol | [Ca] | Ca
reactant | acetone | 2.10 mmol, 0.122 g | CC(=O)C | C3H6O
reactant | THF | 20 mL | C1CCOC1 | C4H8O
product | 4,4-dimethyl-6-methylene-3-oxaspiro[4.5]decan-2-one | CC1(OC(CC12C(CCCC2)=C)=O)C | C12H18O2
